US05037834
4,5,6,7-Tetrahydrothiazolo[5,4-c]pyridin-2(1H)-one
Ammonium thiocyanate (5.54 g, 72.8 mmol) was mixed with water (450 ml) and heated to 80°. A solution of N-acetyl-3-bromo-4-piperidone hydrobromide (20.0 g, 66.2 mmol) in water (200 ml) was added dropwise over 3 hours. The reaction was then allowed to stir at 80° for sixteen hours. The reaction solution (containing the crude N-acetyl-3-thiocyanato-4-piperidone) was treated with concentrated hydrochloric acid (6 ml of a 12M solution, 93 mmol) and heated to reflux for 2 hours. The reaction mixture was then freeze-dried, and the residue dissolved in methanol and filtered. The precipitate was purified by column chromatography (eluant: 89:10:1 chloroform:methanol: concentrated ammonium hydroxide) to provide the title product as a white solid, m.p. 208° (decomp.) (0.60 g, 3.8 mmol, 6% yield).

reactant | Ammonium thiocyanate | 72.8 mmol, 5.54 g | [S-]C#N.[NH4+]
reactant | N-acetyl-3-bromo-4-piperidone hydrobromide | 66.2 mmol, 20.0 g | Br.C(C)(=O)N1CC(C(CC1)=O)Br
reactant | N-acetyl-3-thiocyanato-4-piperidone | C(C)(=O)N1CC(C(CC1)=O)SC#N | C8H10N2O2S
reactant | hydrochloric acid | Cl | ClH
solvent | water | 200 ml | O | H2O
solvent | water | 450 ml | O | H2O
product | 4,5,6,7-Tetrahydrothiazolo[5,4-c]pyridin-2(1H)-one | 6% yield | N1C(SC=2CNCCC21)=O | C6H8N2OS
